US03948939
9-Benzoyl-8-fluoro-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid
A solution of 6.4 g. benzaldehyde 1-benzoyl-1-(2-fluorophenyl)hydrazone and 5.35 g. of cyclohexanone-4-carboxylic acid in 50 ml. glacial acetic acid and 10 ml. of glacial acetic acid saturated with hydrogen chloride was heated under reflux for two hours. An additional 10 ml. glacial acetic acid saturated with hydrogen chloride was then added and heating under reflux was continued two additional hours. A further 5 ml. glacial acetic acid saturated with hydrogen chloride was added and heating under reflux was continued another two hours. The mixture was cooled, 25 ml. water was added portion-wise, and the resulting solid was collected by filtration and washed with water to yield 3.54 g. of the title compound; m.p. 250°-251°C. (acetic acid-water).

reactant | benzaldehyde 1-benzoyl-1-(2-fluorophenyl)hydrazone | C(C1=CC=CC=C1)(=O)N(N=CC1=CC=CC=C1)C1=C(C=CC=C1)F | C20H15FN2O
reactant | cyclohexanone-4-carboxylic acid | C1CC(=O)CCC1C(=O)O | C7H10O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | 9-Benzoyl-8-fluoro-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=C(C=CC=C2C=2CC(CCC12)C(=O)O)F | C20H16FNO3
